data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2990,3342,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][N-:8][N+:9]#[C:10][C:11]([CH3:12])=[O:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:8]([CH3:7])[N:9]=[C:10]1[C:11]([CH3:12])=[O:13],water,298.15,18.595043665690707,-35.142314823913175
568,622,[CH3:10][C:11](=[O:12])[CH:13]=[NH+:14][C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:15]([CH3:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[NH:14][CH:13]3[C:11]([CH3:10])=[O:12],water,298.15,16.310491459026476,-36.09323550979411
1434,1576,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[N+:16]([CH3:17])[CH-:18][C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[N:16]([CH3:17])[CH:18]2[C:19](=[O:20])[O:21][CH3:22],water,298.15,20.285607050307213,-26.28749912667955
3411,3880,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]#[N+:10][C-:11]([CH3:12])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:11]([CH3:12])([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:10]=[C:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,19.26958299835624,-40.79284245265257
3442,3912,[CH2-:9][N+:10]([CH3:11])=[C:12]([C:13]#[N:14])[C:15](=[O:16])[O:17][CH3:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH2:9][N:10]([CH3:11])[C:12]1([C:13]#[N:14])[C:15](=[O:16])[O:17][CH3:18],water,298.15,17.5666729194084,-11.4088656895943
1432,1574,[CH3:16][O:17][C:18](=[O:19])[C:20]([CH3:21])=[N+:22]([CH3:23])[CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[CH:24]([C:25]#[N:26])[N:22]([CH3:23])[C:20]3([C:18]([O:17][CH3:16])=[O:19])[CH3:21],water,298.15,20.97363201885361,-41.80706627001581
3114,3505,[CH3:10][C:11]#[N+:12][C-:13]([CH3:14])[CH3:15].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:13]([CH3:14])([CH3:15])[N:12]=[C:11]1[CH3:10],water,298.15,17.42856022879061,-35.881584476206605
5250,5955,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[C-:28]([C:29]#[N:30])[C:31](=[O:32])[O:33][CH3:34]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:28]([C:29]#[N:30])([C:31](=[O:32])[O:33][CH3:34])[N:26]([CH3:27])[C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,42.55185353214825,11.747609605965112
197,214,[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([CH3:16])([C:17]#[N:18])[O:14][C:12]2([CH3:11])[CH3:13],water,298.15,9.43612240520746,-58.74449996692072
3050,3415,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH-:8][N+:9]#[C:10][C:11](=[O:12])[O:13][CH3:14]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:8]([CH3:7])[N:9]=[C:10]1[C:11](=[O:12])[O:13][CH3:14],water,298.15,14.12033630794568,-38.11907401739789
563,617,[CH3:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[N+:20]([CH3:21])[NH-:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:17]([C:15]([CH3:14])=[O:16])([C:18]#[N:19])[N:20]([CH3:21])[NH:22]2,water,298.15,38.71513890469103,3.607123206549752
2444,2712,[CH3:15][O:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[C-:28]([C:29]([CH3:30])=[O:31])[C:32]([CH3:33])=[O:34].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:19]([C:17]([O:16][CH3:15])=[O:18])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:26]([CH3:27])[C:28]2([C:29]([CH3:30])=[O:31])[C:32]([CH3:33])=[O:34],water,298.15,47.35496949352076,9.776452176199186
1489,1644,[CH3:15][NH:16][C:17](=[O:18])[c-:19]1[c:20](=[O:21])[o:22][c:23]([C:24]#[N:25])[n+:26]1[CH3:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]([F:7])([F:8])[F:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:19]1([C:17]([NH:16][CH3:15])=[O:18])[C:20](=[O:21])[O:22][C:23]2([C:24]#[N:25])[N:26]1[CH3:27],water,298.15,26.25482737458628,1.929073063907292
